US07446199B2
5-Pyridin-2-yl-1H-pyrrolo[2,3-b]pyridine
To a solution of 1-methanesulfonyl-5-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (300 mg, 0.93 mmol) and 2-bromopyridine (150 mg, 0.95 mmol) in DMF (3 mL) was added aqueous Na2CO3 (2M, 1.9 mL, 3.8 mmol). To this suspension was then added PdCl2(dppf) (60 mg, 0.075 mmol) under N2 atmosphere. The flask was then covered with septa, heated at 80° C. for 9 h, and poured into water (30 mL). The aqueous solution was extracted with ethylacetate (3×30 mL). The combined organic layers were dried over Na2SO4, filtered, and evaporated. The resulting residue was dissolved in MeOH (10 mL) and treated with 6N NaOH solution (2 mL) at 50° C. for 3 h. After evaporating the MeOH, the aqueous residue was acidified with 6N HCl to pH=8. The precipitate was collected by filtration, washed with water, and dried on the pump for direct use (100 mg off-white solid, 0.51 mmol). MS (ES+): m/e=196.1 (M+H); LC: 2.04 min.

reactant | 1-methanesulfonyl-5-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.93 mmol, 300 mg | CS(=O)(=O)N1C=CC=2C1=NC=C(C2)B2OC(C(O2)(C)C)(C)C | C14H19BN2O4S
reactant | 2-bromopyridine | 0.95 mmol, 150 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | Na2CO3 | 3.8 mmol, 2M, 1.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 30 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.075 mmol, 60 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Pyridin-2-yl-1H-pyrrolo[2,3-b]pyridine | N1=C(C=CC=C1)C=1C=C2C(=NC1)NC=C2 | C12H9N3
